US06399606B1
3-[((2R)-2-{[(3,5-Dimethylphenyl)amino]carbonylamino}-2-(methoxycarbonyl)ethylthio)methyl]-4-oxo-4-(3-pyridyl)butanoic Acid
The title compound was prepared from 3-({(2R)-2-[(fluoren-9-ylmethoxy)carbonylamino]-2-(methoxycarbonyl)ethylthio} methyl)-4-oxo-4-(3-pyridyl)butanoic acid and 3,5-dimethylphenyl isocyanate as described in Example 16 in a 2.4% yield; ESMS, (M+1)+474.

reactant | 3-({(2R)-2-[(fluoren-9-ylmethoxy)carbonylamino]-2-(methoxycarbonyl)ethylthio} methyl)-4-oxo-4-(3-pyridyl)butanoic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CSCC(CC(=O)O)C(C=1C=NC=CC1)=O)C(=O)OC | C29H28N2O7S
reactant | 3,5-dimethylphenyl isocyanate | CC=1C=C(C=C(C1)C)N=C=O | C9H9NO
product | 3-[((2R)-2-{[(3,5-Dimethylphenyl)amino]carbonylamino}-2-(methoxycarbonyl)ethylthio)methyl]-4-oxo-4-(3-pyridyl)butanoic Acid | 2.4% yield | CC=1C=C(C=C(C1)C)NC(=O)N[C@@H](CSCC(CC(=O)O)C(C=1C=NC=CC1)=O)C(=O)OC | C23H27N3O6S
